US08404896B2
To a solution of 3-phenyl-2,2-bis(3-(trifluoromethoxy)phenyl)propan-1-amine (1.37 g, 3.00 mmol), prepared as described in Example 10 (Procedure 13, 14, 15, and 16), in CH2Cl2 (35 mL) was added K2CO3 (2.1 g, 15 mmol) followed by 4-nitrophenyl carbonochloridate (806 mg, 4.0 mmol) and the reaction mixture was stirred at rt for 5 h. The reaction mixture was diluted with CH2Cl2 (25 mL) and washed with 1N Na2CO3 (6×50 mL), then dried over Na2SO4, filtered and concentrated under reduced pressure to yield a residue. The residue was purified on a silica gel ISCO cartridge with elution at 0 to 40% EtOAc/hexane to yield [3-phenyl-2,2-bis-(3-trifluoromethoxy-phenyl)-propyl]-carbamic acid 4-nitro-phenyl ester (1.50 g, 81% yield) as a clear, colorless oil. LCMS: RT=2.30 min [M+H] 620.94 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) ppm 3.42 (s, 2 H), 3.92 (d, J=6.15 Hz, 2 H), 4.72 (t, J=5.71 Hz, 1 H), 6.60 (d, J=7.03 Hz, 2 H), 7.05-7.26 (m, 9 H), 7.37 (t, J=8.13 Hz, 2 H), 8.23 (d, J=9.23 Hz, 2 H).

reactant | 3-phenyl-2,2-bis(3-(trifluoromethoxy)phenyl)propan-1-amine | 3.00 mmol, 1.37 g | C1(=CC=CC=C1)CC(CN)(C1=CC(=CC=C1)OC(F)(F)F)C1=CC(=CC=C1)OC(F)(F)F | C23H19F6NO2
reactant | K2CO3 | 15 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-nitrophenyl carbonochloridate | 4.0 mmol, 806 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | [3-phenyl-2,2-bis-(3-trifluoromethoxy-phenyl)-propyl]-carbamic acid 4-nitro-phenyl ester | 1.50 g, 81% yield | [N+](=O)([O-])C1=CC=C(C=C1)OC(NCC(CC1=CC=CC=C1)(C1=CC(=CC=C1)OC(F)(F)F)C1=CC(=CC=C1)OC(F)(F)F)=O | C30H22F6N2O6
